US04968702
3-Amino-2-[1,1'-biphenyl]-4-yl-6-fluoro-4-quinolinecarboxylic acid
A 21.35 g portion of 5-fluoroisatin was suspended in 175 ml of water in a three-necked 2 liter flask equipped with a reflux condenser and addition funnel. To the suspension was added a solution of 28.5 g of sodium hydroxide in 100 ml of water, then the mixture was heated to 90° C. A solution of 44.08 g of 2-amino-4'-phenylacetophenone, hydrochloride in 550 ml of a 1:1 mixture of ethanol:water was warmed slightly, then 200 ml of tetrahydrofuran was added to effect dissolution. This solution was added dropwise to the hot solution of 5-fluoroisatin over 2.75 hours with vigorous stirring. When addition was complete the solution was stirred at 90° C. for 2 hours, then the organic solvents were removed by distillation at 85° C. The remaining solution was cooled, added to 1 liter of water and the red solids collected, washed with water and saved. The filtrate was acidified to pH 5 with glacial acetic acid and the resulting yellow solid collected, washed with water and saved. The red solids saved above were stirred in a mixture of 3 liters of water and 100 ml of ammoninum hydroxide for 1 hour, then filtered and the filtrate acidified to pH 5 with glacial acetic acid. The resulting yellow solid was collected, washed with water, combined with the yellow solid saved above and dried, giving 26.9 g of the desired product, mp 229°-232° C. (dec.).

reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | sodium hydroxide | 28.5 g | [OH-].[Na+]
reactant | 2-amino-4'-phenylacetophenone, hydrochloride | 44.08 g | Cl.NCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1
reactant | ethanol | C(C)O | C2H6O
solvent | water | 175 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-Amino-2-[1,1'-biphenyl]-4-yl-6-fluoro-4-quinolinecarboxylic acid | 26.9 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)F)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H15FN2O2
